US06649636B1
3-Nitro-6-(methylsulfonyl)pyridine (10 g, 49.5 mmol) was suspended in water (200 mL). Iron powder (5.0 g, 89.3 mmol) and acetic acid (0.5 mL) were added to the above mixture. The mixture, which resulted, was heated to reflux for 2 h. The reaction was monitored by TLC (EtOAc/hexane, 1/1). The reaction mixture was then cooled to rt and a saturated solution of NaHCO3 (100 mL) was added to the mixture. Ethyl acetate (200 mL) was added to the above mixture and the mixture which resulted was stirred at rt for 30 min. The mixture was filtered through celite and the organic layer was collectd. The aqueous layer was extracted with ethyl acetate (200 mL×3). The organic extractions were combined and dried (NaSO4). The solvent was removed under reduced pressure to provide the 3-amino-6-(methylsulfonyl)pyridine (6 g, 70.5%).

reactant | 3-Nitro-6-(methylsulfonyl)pyridine | 49.5 mmol, 10 g | [N+](=O)([O-])C=1C=NC(=CC1)S(=O)(=O)C | C6H6N2O4S
reactant | acetic acid | 0.5 mL | C(C)(=O)O | C2H4O2
reactant | EtOAc hexane | CCOC(=O)C.CCCCCC
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
solvent | water | 200 mL | O | H2O
catalyst | Iron | 89.3 mmol, 5.0 g | [Fe] | Fe
solvent | Ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 3-amino-6-(methylsulfonyl)pyridine | 6 g, 70.5% | NC=1C=NC(=CC1)S(=O)(=O)C | C6H8N2O2S
